US06451792B1
Preparation of N-(1-hydrazino-2-nitroethenyl)-4trifluoromethoxyaniline (Compound No. 61)
3.00 g of 1,1-bis(methylthio)-2-nitroethene, 3.38 g of 4-trifluoromethoxyaniline and 30 ml of ethanol were reacted for 5 hours under heating and refluxing and then cooled to room temperature, whereupon precipitated crystals were collected by filtration and washed with a small amount of ethanol and dried to obtain 3.40 g of crystals, to which 1.81 g of 4-trifluoromethoxyaniline and 30 ml of ethanol were added and reacted for 6.5 hours under heating and refluxing. After completion of the reaction, the solution was cooled to room temperature, and precipitated crystals were collected by filtration, washed with a small amount of ethanol and dried to obtain 2.51 g of N-(1-methylthio-2-nitroethenyl)-4′trifluoromethoxyaniline (Intermediate No. 30) having a melting point of from 114 to 115° C. (2) To 2.00 g of N-(1-methylthio-2-nitroethenyl)-4-trifluoromethoxyaniline (Intermediate No. 30) obtained in the above step (1), 40 ml of ethanol was added at room temperature, and then 0.36 g of hydrazine monohydrate was dropwise added thereto. Thereafter, the reaction was carried out for 1 hour under heating and refluxing. After completion of the reaction, the solution was cooled to room temperature, and precipitated crystals were collected by filtration, washed with a small amount of ethanol and dried to obtain 1.36 g of the desired product (Compound No. 61) having a melting point of 161° C. (decomposition point).

reactant | N-(1-methylthio-2-nitroethenyl)-4-trifluoromethoxyaniline | 2.00 g | CSC(=C[N+](=O)[O-])NC1=CC=C(C=C1)OC(F)(F)F | C10H9F3N2O3S
reactant | hydrazine monohydrate | 0.36 g | O.NN
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | N-(1-hydrazino-2-nitroethenyl)-4trifluoromethoxyaniline | 1.36 g | N(N)C(=C[N+](=O)[O-])NC1=CC=C(C=C1)OC(F)(F)F | C9H9F3N4O3
